US07648983B2
(+/−) Tert-Butyl (4S,6S)-6-(hydroxymethyl)-4-methyl-4-(3-(pyrimidin-5-yl)phenyl)-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate
To a 110° C. solution of (+/−) tert-butyl (4S,6S)-4-(3-bromophenyl)-6-(hydroxymethyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate (150 mg, 0.36 mmol) in 1,2-dimethoxyethane (4.5 mL), ethanol (1.5 mL), and water (2.3 mL) is added pyrimidine-5-boronic acid (112 mg, 0.90 mmoles, 2.5 equiv), cesium carbonate (353 mg, 1.08 mmol, 3 equiv), and bis(triphenylphosphine)palladium(II) chloride (25 mg, 0.036 mmol, 0.1 equiv). The reaction is stirred at 110° C. After 20 minutes, the reaction mixture is diluted with EtOAc and H2O. The layers are separated and the aqueous phase is extracted with EtOAc. The combined organic layers are dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude residue is purified by column chromatography on silica gel (5% MeOH/DCM) to give the title compound (29% yield): MS (m/z): 415 (M+1)

reactant | (+/−) tert-butyl (4S,6S)-4-(3-bromophenyl)-6-(hydroxymethyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate | 0.36 mmol, 150 mg | BrC=1C=C(C=CC1)[C@]1(N=C(S[C@@H](C1)CO)NC(OC(C)(C)C)=O)C | C17H23BrN2O3S
reactant | pyrimidine-5-boronic acid | 0.90 mmoles, 112 mg, 2.5 equiv | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 1.08 mmol, 353 mg, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 4.5 mL | COCCOC | C4H10O2
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.036 mmol, 25 mg, 0.1 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2.3 mL | O | H2O
product | (+/−) Tert-Butyl (4S,6S)-6-(hydroxymethyl)-4-methyl-4-(3-(pyrimidin-5-yl)phenyl)-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate | 29% yield | OC[C@@H]1C[C@](N=C(S1)NC(OC(C)(C)C)=O)(C1=CC(=CC=C1)C=1C=NC=NC1)C | C21H26N4O3S
